US07560596B2
Synthesis 2′,6′-dimethyl-biphenyl-3-carboxylic acid amide (FIG. 2, Entry 2)
Using microwave irradiation. The general procedure described in Example 3 was used with 3-chlorobenzamide (156 mg, 1.00 mmol), 2,6-dimethylphenylboronic acid (180 mg, 1.20 mmol), Pd(OAc)2 (4.5 mg, 0.020 mmol, 2 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (20.0 mg, 0.0391 mmol, 4 mol %), K2CO3 (345 mg, 2.50 mmol), water (3.0 mL), 10 min, 150° C. (microwave irradiation with cooling). The product was isolated as a white solid (207 mg, 92%). Mp=123-125° C. 1H NMR (400 MHz, CDCl3) δ: 7.85 (d, 1H, J=7.6 Hz), 7.67 (s, 1H), 7.50 (t, 1H, J=7.6 Hz), 7.33 (d, 1H, J=7.6 Hz), 7.20 (t, 1H, J=7.4 Hz), 7.13 (d, 2H, J=7.2 Hz), 6.87 (br-s, 1H), 6.69 (br-s, 1H), 2.03 (s, 6H). 13C NMR (125 MHz, CDCl3) δ: 170.1, 141.6, 140.8, 135.9, 133.8, 132.8, 128.9, 128.1, 127.5, 126.0, 20.96. IR (neat, cm−1): 3347 (br), 3197 (br), 1657, 1602, 1578, 1379, 1102, 770, 737, 703. Anal. Calcd for C15H15NO: C, 79.97; H, 6.71. Found: C, 79.98; H, 6.48.

reactant | 3-chlorobenzamide | 1.00 mmol, 156 mg | ClC=1C=C(C(=O)N)C=CC1 | C7H6ClNO
reactant | 2,6-dimethylphenylboronic acid | 1.20 mmol, 180 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | K2CO3 | 2.50 mmol, 345 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.020 mmol, 4.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.0391 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 3.0 mL | O | H2O
product | 2′,6′-dimethyl-biphenyl-3-carboxylic acid amide | 207 mg, 92% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)C(=O)N | C15H15NO
